US05571775
37. Preparation of 2-Benzylthio-8-bromo-5-methoxy[1,2,4]triazolo[1,5-a]pyridine
2-Benzylthio-8-bromo-5-chloro[1,2,4]triazolo[1,5-a]pyridine (7.7 g, 0.0217 mol) and 25 percent sodium methoxide in methanol (19.9 mL, 4.7 g, 0.0868 mol) were mixed with 400 mL of methanol and the mixture was heated to reflux for 1.5 hours. It was then cooled and acidified with acetic acid. The volatiles were removed by evaporation under reduced pressure and the residue was dissolved in dichloromethane. The resulting solution was washed with water and concentrated by evaporation under reduced pressure. The resulting residue was triturated with hexane and the solids obtained were recovered by filtration and dried to obtain 7.3 g (96 percent of theory) of the title compound as a light tan powder melting at 78°-79° C.

reactant | 2-Benzylthio-8-bromo-5-chloro[1,2,4]triazolo[1,5-a]pyridine | 0.0217 mol, 7.7 g | C(C1=CC=CC=C1)SC1=NN2C(C(=CC=C2Cl)Br)=N1 | C13H9BrClN3S
reactant | sodium methoxide | C[O-].[Na+]
reactant | methanol | 0.0868 mol, 19.9 mL, 4.7 g | CO | CH4O
reactant | methanol | 400 mL | CO | CH4O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-Benzylthio-8-bromo-5-methoxy[1,2,4]triazolo[1,5-a]pyridine | C(C1=CC=CC=C1)SC1=NN2C(C(=CC=C2OC)Br)=N1 | C14H12BrN3OS
